US04117164
10 g of sodium borohydride were added over 5 minutes under nitrogen to a mixture of 20 g of 3-nitro-5-oxo-6,7,8,9-tetrahydro [5H] benzocycloheptene-7-carbonitrile, 200 ml of ethanol and 20 ml of water and the mixture was stirred for one hour at room temperature and then evaporated to dryness under reduced pressure. 400 ml of water were added to the residue and the mixture was extracted with methylene chloride. The organic phase was washed with water, dried and evaporated to dryness under reduced pressure to obtain 18 g of raw product which were chromatographed over silica gel. Elution with a 9-1 ethyl acetate-triethylamine mixture yielded 2 fractions. The first fraction of 6.5 g of trans product occured in the form of a yellow oil with an Rf = 0.65 which was crystallized from ethyl acetate to obtain 4.5 g of trans 5-hydroxy-3-nitro-6,7,8,9-tetrahydro [5H] benzocycloheptene-7-carbonitrile in the form of white crystals melting at 160° C. The second fraction of 7.9 g of cis product occured in the form of a yellow oil with a Rf = 0.55 which crystallized from ethyl acetate to obtain 6.5 g of cis 5-hydroxy-3-nitro-6,7,8,9-tetrahydro [5H] benzocycloheptene-7-carbonitrile in the form of white crystals melting at 142° C.

reactant | sodium borohydride | 10 g | [BH4-].[Na+]
reactant | 3-nitro-5-oxo-6,7,8,9-tetrahydro [5H] benzocycloheptene-7-carbonitrile | 20 g | [N+](=O)([O-])C1=CC2=C(CCC(CC2=O)C#N)C=C1 | C12H10N2O3
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | trans 5-hydroxy-3-nitro-6,7,8,9-tetrahydro [5H] benzocycloheptene-7-carbonitrile | 4.5 g | O[C@@H]1C[C@H](CCC2=C1C=C(C=C2)[N+](=O)[O-])C#N | C12H12N2O3
